US08440652B2
General method B was applied to 4-(2-cyanopropan-2-yl)phenylboronic acid (79 mg, 0.42 mmol) and 6-(3-amino-6-bromopyrazin-2-yl)-3,4-dihydroisoquinolin-1(2H)-one (150 mg, 0.38 mmol) in n-butanol (2 mL) to give 2-{4-[5-amino-6-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-pyrazin-2-yl]-phenyl}-2-methyl-propionitrile (119 mg, 82% yield) after purification by column chromatography on silica (2-5% MeOH/DCM eluent).

reactant | 4-(2-cyanopropan-2-yl)phenylboronic acid | 0.42 mmol, 79 mg | C(#N)C(C)(C)C1=CC=C(C=C1)B(O)O | C10H12BNO2
reactant | 6-(3-amino-6-bromopyrazin-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.38 mmol, 150 mg | NC=1C(=NC(=CN1)Br)C=1C=C2CCNC(C2=CC1)=O | C13H11BrN4O
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 2-{4-[5-amino-6-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-pyrazin-2-yl]-phenyl}-2-methyl-propionitrile | 119 mg, 82% yield | NC=1N=CC(=NC1C=1C=C2CCNC(C2=CC1)=O)C1=CC=C(C=C1)C(C#N)(C)C | C23H21N5O
